** sch_path: /foss/designs/ICONS2026/th_nmos/xschem/tb_th_nmos.sch
**.subckt tb_th_nmos
E1 vsp vsc vsd GND 0.5
E2 vsm vsc vsd GND -0.5
Vcm vsc GND vcm
Vsup vdd GND vdd
Vdm vsd GND sin(0 vamp fin 0)
x1 track vip vop vom vim GND vdd th_nmos
Rp vsp vip rs m=1
Rm vim vsm rs m=1
Vtrk track GND dc vdd pulse(0 vdd 0 trf trf {per/2} per 0)
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt
.param vdd=1.2 vcm=0.3 vamp=0.4
.param rs=1m cl=5p w=100u l=0.13u nf=20
.param nfft=32 fclk=500Meg per=1/fclk trf=50p
.param bin=7 fin=fclk*bin/nfft

.csparam per = per
.csparam t1 = 4*per
.csparam tstart = per/4
.csparam tstop = per*(nfft+3.1)
.option method=gear reltol=1e-6

.control
    tran 1n $&t1
    write tb_th_nmos.raw

    option interp
    set wr_singlescale
    set wr_vecnames
    compose bin_vec start=1 stop=15 step=1
    foreach i $&bin_vec
      alterparam bin=$i
      reset
      tran $&per $&tstop $&tstart
      wrdata tb_th_nmos.txt v(vop, vom)
      set appendwrite
      unset set wr_vecnames
    end
    unset appendwrite
    op
    show
.endc


**** end user architecture code
**.ends

* expanding   symbol:  th_nmos.sym # of pins=7
** sym_path: /foss/designs/ICONS2026/th_nmos/xschem/th_nmos.sym
** sch_path: /foss/designs/ICONS2026/th_nmos/xschem/th_nmos.sch
.subckt th_nmos track vip vop vom vim vss vdd
*.ipin vip
*.opin vop
*.ipin vim
*.opin vom
*.ipin track
*.iopin vss
*.iopin vdd
XMp vip track vop vss sg13_lv_nmos w={w/nf} l={l} ng=1 m=nf
Cp vop vss {cl} m=1
XMm vim track vom vss sg13_lv_nmos w={w/nf} l={l} ng=1 m=nf
Cm vom vss {cl} m=1
.ends

.GLOBAL GND
.end
